### PR TITLE
feat: add `Nat.mod_eq_sub` and fix dependencies from `Nat.sub_mul_eq_mod_of_lt_of_le`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorem `mod_eq_sub`, makes theorem `sub_mul_eq_mod_of_lt_of_le` not private anymore and moves its location within the `rotate*` section to use it in other proofs.

### CODE REVIEW

File: src/Init/Data/Nat/Lemmas.lean [hunk 1]
```diff
@@ -679,6 +679,42 @@ theorem add_mod (a b n : Nat) : (a + b) % n = ((a % n) + (b % n)) % n := by
 @[simp] theorem mod_mul_mod {a b c : Nat} : (a % c * b) % c = a * b % c := by
   rw [mul_mod, mod_mod, ← mul_mod]
 
+@[simp]
+theorem mod_eq_sub_of_le_of_lt {x w n : Nat} (x_ge : w * n ≤ x) (x_lt : x < w * (n + 1)) :
```
Comment (bollu) [inline src/Init/Data/Nat/Lemmas.lean:683]: This feels like the kind of lemma where `calc` mode would help improve clarity, so let's perhaps pair on this tomorrow.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2671,9 +2665,11 @@ theorem getMsbD_rotateLeft_of_lt {n w : Nat} {x : BitVec w} (hi : r < w):
       by_cases h₁ : n < w + 1
       · simp only [h₁, decide_true, Bool.true_and]
         have h₂ : (r + n) < 2 * (w + 1) := by omega
-        rw [mod_eq_sub_of_le_of_lt (by omega) (by omega)]
+        rw [Nat.mod_eq_sub_of_le_of_lt (n := 1)]
         congr 1
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2669]: I still need 
`congr 1 <;> omega
  omega
  omega
`
though

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2671,9 +2665,11 @@ theorem getMsbD_rotateLeft_of_lt {n w : Nat} {x : BitVec w} (hi : r < w):
...
-        omega
+        · omega
+        · omega
+        · omega
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2672]: I think 
```
        rw [Nat.mod_eq_sub_of_le_of_lt (n := 1) (by omega) (by omega)]
        congr 1
        omega
```
is the best one can do here, or otherwise
```
        rw [Nat.mod_eq_sub_of_le_of_lt (n := 1)]
        congr 1
        all_goals omega
```

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:2672]: Actually one could also use auto-params here:
```
theorem mod_eq_sub_of_le_of_lt {x w n : Nat} (x_ge : w * n ≤ x := by omega) (x_lt : x < w * (n + 1) := by omega) :
    x % w = x - w * n := by
  simp only [ge_iff_le, gt_iff_lt] at x_ge x_lt
```
and then just   
```
        rw [Nat.mod_eq_sub_of_le_of_lt (n := 1)]
        congr 1
        omega
```
works. But let's not do that as a one-off. (It may be interesting to think about using omega as a pervasive auto-param for side condition inequalities, however!)

File: src/Init/Data/Nat/Lemmas.lean (hunk 1 above)
Comment (kim-em) [reply src/Init/Data/Nat/Lemmas.lean:683]: Please refactor this proof as
```
theorem mod_eq_sub (x w : Nat) : x % w = x - w * (x / w) := by
  conv => rhs; congr; rw [← mod_add_div x w]
  simp

@[simp]
theorem mod_eq_sub_of_le_of_lt {x w n : Nat} (x_ge : w * n ≤ x) (x_lt : x < w * (n + 1)) :
    x % w = x - w * n := by
  rw [mod_eq_sub]
  congr
  sorry
```
also with a separate lemma to fill in the `sorry` from the inequalities.

(Optional extra: a parallel `Int.mod_eq_sub`.)

**Comment by luisacicolini** [comment]
Thanks a lot @kim-em @bollu for the reviews! It took me some time to understand it, but the proof of `mod_eq_sub_of_le_of_lt` should now be okay.

**Comment by luisacicolini** [comment]
awaits-review

**Comment by luisacicolini** [comment]
await-review

**Comment by luisacicolini** [comment]
Actually, it looks like one such theorem [exists already](https://github.com/leanprover/lean4/blob/0eca3bd55de7f29320e90b83ef2f43e9dff7546b/src/Init/Data/BitVec/Lemmas.lean#L3111): `Nat.sub_mul_eq_mod_of_lt_of_le` so I guess this PR is not needed after all and I can use the other theorem.

**Comment by kim-em** [comment]
Could we make sure
```
theorem mod_eq_sub (x w : Nat) : x % w = x - w * (x / w) := by
  conv => rhs; congr; rw [← mod_add_div x w]
  simp
```
makes it in? Either strip this PR down to just that, or close this PR and include it in a subsequent PR?

**Comment by luisacicolini** [comment]
I have fixed the dependencies from the existing theorem (which is now not private anymore and in a different location, otherwise I could not use it) and kept `mod_eq_sub`. Happy to split the PR into two if that is better.
